US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (50.0 mg) was reacted with 2-(4-iodophenoxy)-5-ethylpyrimidine (54.1 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(5-ethylpyrimidin-2-yloxy)phenyl]pent-4-enoic acid methyl ester (62.2 mg). Column chromatography (chloroform) and thin layer chromatography (cyclohexane/ethyl acetate=1/2) were used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 50.0 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | 2-(4-iodophenoxy)-5-ethylpyrimidine | 54.1 mg | IC1=CC=C(OC2=NC=C(C=N2)CC)C=C1 | C12H11IN2O
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(5-ethylpyrimidin-2-yloxy)phenyl]pent-4-enoic acid methyl ester | 62.2 mg | COC(C(C\C=C\C1=CC=C(C=C1)OC1=NC=C(C=N1)CC)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C25H23Cl2N3O4
